US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[1-methyl-7-(morpholine-4-carbonyl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with (1-Methyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-morpholin-4-yl-methanone to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | (1-Methyl-1,2,3,4-tetrahydro-isoquinolin-7-yl)-morpholin-4-yl-methanone | CC1NCCC2=CC=C(C=C12)C(=O)N1CCOCC1 | C15H20N2O2
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[1-methyl-7-(morpholine-4-carbonyl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=CC=C1CC2)C(=O)N2CCOCC2)C | C22H22BrN5O3
